US07105544B2
N-(3-{4-[4-FLUORO-3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLPROPANAMIDE
Example 51 was prepared from 2,2-diphenylpropanoic acid and N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 8.27–8.13 (m, 1H), 8.04 (s, 1H), 7.62 (s, 1H), 7.50–7.39 (m, 1H), 7.39–7.16 (m, 7H), 7.12–6.90 (m, 2H), 6.79–6.60 (br, 1H), 4.94–4.61 (br, 1H), 3.60–3.22 (m, 4H), 2.89–2.76 (m, 2H), 2.76–2.55 (m, 4H), 2.55–2.34 (m, 3H), 2.14–1.82 (m, 3H), 2.00 (s, 3H), 1.26 (d, 6H, J=6.4 Hz); ESMS m/e: 530.4 (M+H)+; Anal. Calc. for (HCl salt) C33H41ClFN3O2.0.24CHCl3.0.96H2O: C, 65.23; H, 7.11; N, 6.86. Found: C, 64.96; H, 7.36; N. 6.87.

reactant | 2,2-diphenylpropanoic acid | C1(=CC=CC=C1)C(C(=O)O)(C)C1=CC=CC=C1 | C15H14O2
reactant | N-{5-[1-(3-aminopropyl)-4-piperidinyl]-2-fluorophenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=CC(=C(C1)NC(C(C)C)=O)F | C18H28FN3O
product | N-(3-{4-[4-FLUORO-3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)-2,2-DIPHENYLPROPANAMIDE | FC1=C(C=C(C=C1)C1CCN(CC1)CCCNC(C(C)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(C(C)C)=O | C33H40FN3O2
